***inverter with enhancement NMOS load***

.include ./t14y_tsmc_025_level3.txt


*Netlist*
mnd out in 0 0 cmosn w=10u l=1u 
mnl dd dd out 0 cmosn w=10u l=1u

Vdd dd 0 5
Vin in 0 dc 2.5 pulse(0 5 0.01n 0.05n 0.05n 10n 20n)


***DC and transient response on varying the Length and width of driver and load of MOSTFET***

.control

foreach len 1u 2u 5u
	alter mnd L=$len
	foreach wid 10u 3u 16u
		alter mnd W=$wid
		tran 0.1ns 40ns
		dc Vin 0 5 0.1
	end
end

.endc

.control

foreach len 1u 2u 5u
	alter mnl L=$len
	foreach wid 10u 3u 16u
		alter mnl W=$wid
		tran 0.1ns 40ns
		dc Vin 0 5 0.1
	end
end

.endc
