*NOR gate
model file
.include ./t14y_tsmc_025_level3.txt

*Pull up network
m2 vdd a x vdd cmosp l=1u w=5u
m3 x b out vdd cmosp l=1u w=5u

*Pull down network
m0 out a 0 0 cmosn l=1u w=1u
m1 out b 0 0 cmosn l=1u w=1u



v_dd vdd 0 5
v_a a 0 5 pulse(0 5 0 0.1n 0.1n 4n 8n)
v_b b 0 5 pulse(0 5 0 0.1n 0.1n 2n 4n)

*Varying WIDTH of both the NMOS
.control
foreach wid 0.5u 1u 10u
alter m0 w=$wid
alter m1 w=$wid
tran 0.01n 8ns
end
alter m0 w=1u
alter m1 w=1u
.endc

.control
plot tran1.a tran1.b tran1.out tran2.out tran3.out
plot tran1.v_dd#branch*(-vdd) tran2.v_dd#branch*(-vdd) tran3.v_dd#branch*(-vdd)
plot tran1.x tran2.x tran3.x
.endc

